US05145865
(2) 1-[2-(3,4-Methylenedioxyphenoxy)ethyl]-4-hydroxymethylpiperidine
Lithium aluminum hydride (1.81 g) is suspended in THF (60 ml) under ice-cooling and thereto is added dropwise a solution of ethyl 1-(3,4-methylenedioxyphenoxyacetyl)-piperidine-4-carboxylate (4.00 g) in THF (20 ml). The mixture is stirred at room temperature for 30 minutes, and further stirred under refuxing for 14 hours. To the reaction mixture are added ethyl acetate and a small amount of 1N aqueous sodium hydroxide solution to decompose the excess reducing agent. The mixture is filtered and the filtrate is concentrated under reduced pressure to give the desired product (3.25 g).

reactant | Lithium aluminum hydride | 1.81 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-(3,4-methylenedioxyphenoxyacetyl)-piperidine-4-carboxylate | 4.00 g | C1OC=2C=C(OCC(=O)N3CCC(CC3)C(=O)OCC)C=CC2O1 | C17H21NO6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[2-(3,4-Methylenedioxyphenoxy)ethyl]-4-hydroxymethylpiperidine | 3.25 g | C1OC=2C=C(OCCN3CCC(CC3)CO)C=CC2O1 | C15H21NO4
